US07888366B2
Sodium hydride (60%; 316 mg; 7.9 mmol) was suspended in DMF and cooled to 0° C. sec-Phenethyl alcohol (966 mg; 7.9 mmol) was dissolved in DMF and added dropwise to the sodium hydride mixture. The solution was allowed to warm to room temperature and stirred for 1 hour. The solution was then cooled to 0° C. 2,6-Difluorobenzonitrile (1 g; 7.2 mmol) in DMF was cooled to 0° C. and the alcohol mixture was added dropwise to the benzonitrile solution and stirred for 2 hours. The solution was poured over 100 mL of cooled water. The solution was stored in the refrigerator for 3 hours and the solid was collected by filtration and dried under vacuum to yield 1.50 grams of 2-fluoro-6-(1-phenylethoxy)benzonitrile.

reactant | Sodium hydride | 7.9 mmol, 316 mg | [H-].[Na+]
reactant | sec-Phenethyl alcohol | 7.9 mmol, 966 mg | CC(C1=CC=CC=C1)O | C8H10O
reactant | 2,6-Difluorobenzonitrile | 7.2 mmol, 1 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-fluoro-6-(1-phenylethoxy)benzonitrile | 1.50 grams | FC1=C(C#N)C(=CC=C1)OC(C)C1=CC=CC=C1 | C15H12FNO
